US09126969B2
200 mg of 4-fluoro-2-nitro-5-(3-piperidin-1-ylpropoxy)-phenylamine in solution in 15 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 20 mg of palladium-on-charcoal at 25° C. for 10 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 180 mg of 4-fluoro-5-(3-piperidin-1-ylpropoxy)benzene-1,2-diamine are obtained in the form of a black oil. The product is used without any other purification.

reactant | 4-fluoro-2-nitro-5-(3-piperidin-1-ylpropoxy)-phenylamine | 200 mg | FC1=CC(=C(C=C1OCCCN1CCCCC1)N)[N+](=O)[O-] | C14H20FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-on-charcoal | 20 mg | [Pd] | Pd
product | 4-fluoro-5-(3-piperidin-1-ylpropoxy)benzene-1,2-diamine | 180 mg | FC=1C=C(C(=CC1OCCCN1CCCCC1)N)N | C14H22FN3O
